US06939887B2
Synthesis of 1-(2-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile
5-Amino-1-(2-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazole-2-one (46.2 mg) was dissolved in dimethyl sulfoxide (1 ml), and to the solution was added CuCN (16.4 mg). The mixture was heated at 55° C. At the same temperature, a solution of t-butyl nitrite (43.6 mg) in dimethyl sulfoxide (0.5 ml) was added dropwise during about 1.5 hours. After the addition was completed, the mixture was stirred at about 60° C. for 1 hour. After allowing to cool, to the reaction mixture was added water, and the mixture was extracted 2 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (20 g, CHCl3-methanol=20:1) to give the title compound (17.6 mg).

reactant | 5-Amino-1-(2-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazole-2-one | 46.2 mg | NC1=CC2=C(N(C(N2)=O)C2=C(C=CC=C2)Cl)C(=C1)C(F)(F)F | C14H9ClF3N3O
reactant | CuCN | 16.4 mg | C(#N)[Cu]
reactant | t-butyl nitrite | 43.6 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | 1-(2-chlorophenyl)-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 17.6 mg | ClC1=C(C=CC=C1)N1C(NC2=C1C(=CC(=C2)C#N)C(F)(F)F)=O | C15H7ClF3N3O
